US07074790B2
cis-4-tert-Butylcyclohexanecarbonyl chloride
2.0 g (10.85 mmol) cis-4-tert-Butylcyclohexanecarboxylic acid are dissolved in 50 ml dichloromethane, 1.65 g (13.02 mmol) ethanedioyl dichloride are added and the solution is stirred at room temperature for one hour. The mixture is then stirred at reflux for two hours and, after cooling down to room temperature, evaporated to dryness in vacuo. The residue is then dissolved in toluene two times and again evaporated to dryness in vacuo. The residue is used in the next step without further purification.

reactant | cis-4-tert-Butylcyclohexanecarboxylic acid | 10.85 mmol, 2.0 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)C(=O)O | C11H20O2
reactant | ethanedioyl dichloride | 13.02 mmol, 1.65 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | cis-4-tert-Butylcyclohexanecarbonyl chloride | C(C)(C)(C)[C@H]1CC[C@H](CC1)C(=O)Cl | C11H19ClO
